US06653310B2
d) 4-(aminosulfonyl) 3-chloro 5-hydroxy 6-amino pyridine
To a solution of 4-(aminosulfonyl) 3-chloro 5-hydroxy 6-nitro pyridine (4.36 mmol) in ethyl acetate, was added 10% Pd/C (500 mg). The mixture was flushed with argon, and then stirred under a hydrogen atmosphere at balloon pressure for 4 hours at room temperature. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated to give the desired product.

reactant | 4-(aminosulfonyl) 3-chloro 5-hydroxy 6-nitro pyridine | 4.36 mmol | NS(=O)(=O)C1=C(C=NC(=C1O)[N+](=O)[O-])Cl | C5H4ClN3O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-(aminosulfonyl) 3-chloro 5-hydroxy 6-amino pyridine | NS(=O)(=O)C1=C(C=NC(=C1O)N)Cl | C5H6ClN3O3S
